US05792769
c) 2-Chlorobenzenesulfonic acid 3-[[N-(tert-butoxycarbonyl)piperidin-3-yl]methoxy]phenyl ester
To a solution of 2-chlorobenzenesulfonic acid 3-hydroxyphenyl ester (570 mg, 2.0 mmol), as prepared in step d of Example 1, in DMF (8 mL) was added NaH (95%, 53 mg, 2.2 mmol). The reaction mixture was stirred under nitrogen for 10 min. N-(tert-Butoxycarbonyl)-3-piperidinemethanol methanesulfonate (586 mg, 2.0 mmol), as prepared in step b, was added and the reaction mixture was stirred at 40° C. under nitrogen overnight. The reaction mixture was diluted with ethyl acetate (150 mL), washed sequentially with saturated NaHCO3 (2×50 mL) and brine (2×50 mL), dried over Na2SO4, and concentrated in vacuo. The residue was purified by flash column chromatography (2:1 hexane:ethyl acetate) to give the title compound as a colorless syrup (510 mg, 54%). 1H-NMR (300 MHz, CDCl3) δ 1.32 (m, 1H), 1.45 (s, 9H), 1.65-1.98 (m, 4H), 2.88 (m, 2H), 3.73 (m, 2H), 3.79 (d, 2H), 6.69 (m, 2H), 7.13 (t, 1H), 7.37 (t, 1H), 7.61 (m, 2H), 7.94 (d, 1H).

reactant | 2-chlorobenzenesulfonic acid 3-hydroxyphenyl ester | 2.0 mmol, 570 mg | OC=1C=C(C=CC1)OS(=O)(=O)C1=C(C=CC=C1)Cl | C12H9ClO4S
reactant | NaH | 2.2 mmol, 53 mg | [H-].[Na+]
reactant | N-(tert-Butoxycarbonyl)-3-piperidinemethanol methanesulfonate | 2.0 mmol, 586 mg | CS(=O)(=O)OCC1CN(CCC1)C(=O)OC(C)(C)C | C12H23NO5S
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
product | 2-Chlorobenzenesulfonic acid 3-[[N-(tert-butoxycarbonyl)piperidin-3-yl]methoxy]phenyl ester | 510 mg, 54% | C(C)(C)(C)OC(=O)N1CC(CCC1)COC=1C=C(C=CC1)OS(=O)(=O)C1=C(C=CC=C1)Cl | C23H28ClNO6S
